US08222254B2
A solution of 5-{2-[4-(3-aminophenyl)piperazin-1-yl]ethyl}-4-(cyclohexylmethyl)-2,4-dihydro-3H-1,2,4-triazol-3-one D10 (0.13 g, 0.34 mmol) in pyridine (2 mL) was cooled to 0° C. and acetyl chloride (0.025 mL, 0.029 g, 0.36 mmol) was added. The reaction mixture was stirred at 0° C. for 18 hrs and then evaporated to dryness. The residue was purified by flash chromatography (Silica gel 60 Å, 45 μm, 10% methanol in dichloromethane) and afforded 0.015 g (10%) N-[3-(4-{2-[4-(cyclohexylmethyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]ethyl}piperazin-1-yl)phenyl]acetamide E38 as an orange oil.

reactant | 5-{2-[4-(3-aminophenyl)piperazin-1-yl]ethyl}-4-(cyclohexylmethyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | NC=1C=C(C=CC1)N1CCN(CC1)CCC=1N(C(NN1)=O)CC1CCCCC1 | C21H32N6O
reactant | acetyl chloride | 0.36 mmol, 0.025 mL, 0.029 g | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(4-{2-[4-(cyclohexylmethyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]ethyl}piperazin-1-yl)phenyl]acetamide | 0.015 g, 10% | C1(CCCCC1)CN1C(=NNC1=O)CCN1CCN(CC1)C=1C=C(C=CC1)NC(C)=O | C23H34N6O2
